US08802864B2
6-[4-(3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-1,5-dihydro-4H-1,2,4-triazol-4-yl)-3-fluorophenyl]-4(1H)-quinazolinone
A solution of 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (0.238 mmol) in 1,4-dioxane (1.5 mL) was treated with 6-bromo-4(1H)-quinazolinone (0.238 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II)-dichloromethane adduct (10 mg) and 2M aq potassium carbonate (0.715 mmol). The reaction mixture was purged with nitrogen, sealed, and irradiated in a microwave at 150° C. for 15 min. The reaction mixture was cooled to room temperature and was diluted with water (50 mL). The aqueous layer was acidified to pH˜4 using 1N aq HCl and was extracted with dichloromethane. The organic layer was dried over sodium sulfate, treated with Si-Thiol (Silicycle, 20 mg), filtered, and concentrated in vacuo. The crude residue was purified by reverse phase HPLC (10-40% acetonitrile w/0.1% TFA/water w/0.1% TFA). The product fractions from the HPLC were combined, adjusted to pH˜5 with the addition of saturated aq sodium bicarbonate, and extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting product was then purified by flash chromatography (0-10% methanol/dichloromethane). The resulting product was suspended in water (0.5 mL) and was lyophilized to afford the title compound as an amorphous white solid (11%). MS(ES)+ m/e 475.1 [M+H]+.

reactant | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.238 mmol | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C23H30BFN4O4
reactant | 6-bromo-4(1H)-quinazolinone | 0.238 mmol | BrC=1C=C2C(N=CNC2=CC1)=O | C8H5BrN2O
reactant | potassium carbonate | 0.715 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 6-[4-(3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-1,5-dihydro-4H-1,2,4-triazol-4-yl)-3-fluorophenyl]-4(1H)-quinazolinone | 11% | C1(CC1)C(=O)N1C[C@@H](CC1)CC1=NNC(N1C1=C(C=C(C=C1)C=1C=C2C(N=CNC2=CC1)=O)F)=O | C25H23FN6O3
